US06417203B1
2-[3-[(3-{(1R/S)-1-[(tert-Butoxycarbonyl)amino]-2-methoxyethyl}phenethyl)amino]-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic Acid
A mixture of benzyl 2-[3-[(3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-methoxyethyl}phenethyl)amino]-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate (preparation 122) (248 mg, 0.42 mmol), ammonium formate (265 mg, 4.2 mmol) and 10% palladium on charcoal (100 mg) in methanol (10 ml) was heated under reflux for 25 hrs. The cooled reaction was filtered through Arbocel®, and NaOH (420 ml, 10M, 4.2 mmol) was added to the filtrate. This mixture was evaporated under reduced pressure, triturated and filtered with a dichloromethane:methanol (91:9) solution (3×), and the combined filtrates evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using an elution gradient of dichloromethane:methanol (100:0 to 93:7) to give the title compound as an oil, (35 mg, 18%).

reactant | benzyl 2-[3-[(3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-methoxyethyl}phenethyl)amino]-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 0.42 mmol, 248 mg | C(C)(C)(C)OC(=O)NC(COC)C=1C=C(CCNC=2C(N(C(=C(N2)Cl)C)CC(=O)OCC2=CC=CC=C2)=O)C=CC1 | C30H37ClN4O6
reactant | ammonium formate | 4.2 mmol, 265 mg | C(=O)[O-].[NH4+]
reactant | NaOH | 4.2 mmol, 10M, 420 ml | [OH-].[Na+]
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 2-[3-[(3-{(1R/S)-1-[(tert-Butoxycarbonyl)amino]-2-methoxyethyl}phenethyl)amino]-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic Acid | 35 mg, 18% | C(C)(C)(C)OC(=O)NC(COC)C=1C=C(CCNC=2C(N(C(=CN2)C)CC(=O)O)=O)C=CC1 | C23H32N4O6
